US07582625B2
A9b) ethyl 4-(4-piperazin-1-yl-piperidin-1-yl)-butanoate
A suspension of 2.9 g (7.76 mmol) ethyl 4-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-butanoate and 300 mg 10% Pd/C in 60 mL MeOH was hydrogenated at RT and 50 psi hydrogen pressure for 24 h. The catalyst was filtered off, the mixture was evaporated down i.vac., the residue was taken up in a little DIPE and isopropanol and combined with 4 M HCl in 1,4-dioxane. The precipitated bis-hydrochloride salt was separated off and dried.

reactant | ethyl 4-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-butanoate | 7.76 mmol, 2.9 g | C(C1=CC=CC=C1)N1CCN(CC1)C1CCN(CC1)CCCC(=O)OCC | C22H35N3O2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | ethyl 4-(4-piperazin-1-yl-piperidin-1-yl)-butanoate | N1(CCNCC1)C1CCN(CC1)CCCC(=O)OCC | C15H29N3O2
